US07951810B2
Step c: ((3aR,4R,6R,6aR)-2,2-Dimethyl-6-{6-[3-(1H-pyrazol-1-yl)phenyl]-9H-purin-9-yl}-tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl acetate
[(3aR,4R,6R,6aR)-6-(6-Bromo-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate (0.1 g, 0.242 mmol), 3-(1-H-pyrazole-1-yl)phenylboronic acid (0.137 g, 0.726 mmol), potassium phosphate (0.154 g, 0.726 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex dichloromethane (1:1) (0.040 g, 0.048 mmol) were placed in an oven-dried microwave vial and degassed with argon. Anhydrous dioxane (1.5 mL) was added and the reaction was heated to 150° C. for ten minutes in the microwave. The mixture was filtered through a pad of Celite washing with dichloromethane then concentrated. The residue was taken up in dichloromethane and purified on a prep plate using 60% ethyl acetate/hexanes as developing solvent to give the title compound as a yellow solid (0.061 g 53%).

reactant | [(3aR,4R,6R,6aR)-6-(6-Bromo-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate | 0.242 mmol, 0.1 g | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Br | C15H17BrN4O5
reactant | 3-(1-H-pyrazole-1-yl)phenylboronic acid | 0.726 mmol, 0.137 g | N1(N=CC=C1)C=1C=C(C=CC1)B(O)O | C9H9BN2O2
reactant | potassium phosphate | 0.726 mmol, 0.154 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dichloromethane | 0.048 mmol, 0.040 g | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ((3aR,4R,6R,6aR)-2,2-Dimethyl-6-{6-[3-(1H-pyrazol-1-yl)phenyl]-9H-purin-9-yl}-tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl acetate | 0.061 g, 53% | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)C2=CC(=CC=C2)N2N=CC=C2 | C24H24N6O5
